US05096919
A solution of 1.4 g of N-hydroxy-1-[4-(2,5-dimethyl-1H-pyrrol-1-yl)-phenyl]-ethylamine in 60 ml of toluene is stirred and treated first with one mole equivalent of 4.0 M ethanolic HCl, followed by 15 ml of 2.0 M phosgene in toluene. The solution is stirred for 7 hours, 50 ml of concentrated ammonium hydroxide is added and the mixture is stirred overnight. Excess water is then added and the mixture is again stirred for 2 hours. The organic layer is separated, washed with brine, dried over magnesium sulfate, treated with charcoal and evaporated to dryness. The residue is crystallized from ether to yield N-carbamoyl-N-hydroxy-1-[4-(2,5-dimethyl-1H-pyrrol-1-yl)-phenyl]-ethyl-amine;

reactant | N-hydroxy-1-[4-(2,5-dimethyl-1H-pyrrol-1-yl)-phenyl]-ethylamine | 1.4 g | ONC(C)C1=CC=C(C=C1)N1C(=CC=C1C)C | C14H18N2O
reactant | HCl | 4.0 M | Cl | ClH
reactant | phosgene | 2.0 M, 15 ml | C(=O)(Cl)Cl | CCl2O
reactant | ammonium hydroxide | 50 ml | [OH-].[NH4+]
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | N-carbamoyl-N-hydroxy-1-[4-(2,5-dimethyl-1H-pyrrol-1-yl)-phenyl]-ethyl-amine | C(N)(=O)N(O)C(C)C1=CC=C(C=C1)N1C(=CC=C1C)C | C15H19N3O2
